US04526981
To a cold solution (10° C.) of 1.9 g of [1,3-diacetyl-4-(4-methoxybenzoyl)-1,3-dihydro-2-oxo-2H-imidazol-5-yl]-methyl nitrate in 30 ml of ethyl ether and 20 ml of ethyl acetate there is added a solution of 470 mg of piperidine in 10 ml of ethyl ether and the solution is stirred at 25° C. for 30 minutes. Water (30 ml) is added and the precipitate which forms is separated and recrystallized twice from ethyl acetate to give [1-acetyl-1,3-dihydro-5-(4-methoxybenzoyl)-2-oxo-2H-imidazol-4-yl]methyl nitrate melting at about 165°-166° C. with decomposition.

reactant | [1,3-diacetyl-4-(4-methoxybenzoyl)-1,3-dihydro-2-oxo-2H-imidazol-5-yl]-methyl nitrate | 1.9 g | [N+](=O)(OCC1=C(N(C(N1C(C)=O)=O)C(C)=O)C(C1=CC=C(C=C1)OC)=O)[O-] | C16H15N3O8
reactant | piperidine | 470 mg | N1CCCCC1 | C5H11N
reactant | Water | 30 ml | O | H2O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
product | [1-acetyl-1,3-dihydro-5-(4-methoxybenzoyl)-2-oxo-2H-imidazol-4-yl]methyl nitrate | [N+](=O)(OCC=1NC(N(C1C(C1=CC=C(C=C1)OC)=O)C(C)=O)=O)[O-] | C14H13N3O7
